US07314849B2
A solution of crude 2-chloro-4-difluoromethyl-3-methoxy-1-nitrobenzene in ethanol (50 mL) containing 5% palladium on charcoal (250 mg) was hydrogenated (50 psi) for 5 hours. The solution was filtered and concentrated to give 2-chloro-4-difluoromethyl-3-methoxyaniline (1.3 g, 48 mmol): LC/MS (m/z=207).

reactant | 2-chloro-4-difluoromethyl-3-methoxy-1-nitrobenzene | ClC1=C(C=CC(=C1OC)C(F)F)[N+](=O)[O-] | C8H6ClF2NO3
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 250 mg | [Pd] | Pd
product | 2-chloro-4-difluoromethyl-3-methoxyaniline | 48 mmol, 1.3 g | ClC1=C(N)C=CC(=C1OC)C(F)F | C8H8ClF2NO
